US05068359
P.2 Preparation of 3-bromo-7-benzothiophene-carbaldehyde
With stirring, 68.2 g (0.74 mole) of 2-nitropropane are added dropwise at room temperature, over a period of 45 minutes, to a Na-ethoxide solution prepared under an argon atmosphere from 14.2 g (0.61 mole) of sodium and 800 ml of abs. ethanol. 137 g (0.61 mole) of 3-bromo-7-bromomethylbenzothiophene are then added dropwise at room temperature, over a period of 1.5 hours, to the resulting white suspension. After the reaction mixture has been stirred for one day, the solvent is evaporated off from the reaction mixture in vacuo, the resulting residue of 101.2 g is dissolved in a mixture of hexane:diethyl ether 1:1 and the solution is purified by chromatography on silica gel. After evaporation of the solvent, 81 g (80% of the theoretical amount) of 3-bromo-7-benzothiophene-carbaldehyde are obtained as residue.

reactant | 2-nitropropane | 0.74 mole, 68.2 g | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | sodium | 0.61 mole, 14.2 g | [Na] | Na
reactant | 3-bromo-7-bromomethylbenzothiophene | 0.61 mole, 137 g | BrC1=CSC2=C1C=CC=C2CBr | C9H6Br2S
solvent | ethanol | C(C)O | C2H6O
product | 3-bromo-7-benzothiophene-carbaldehyde | BrC1=CSC2=C1C=CC=C2C=O | C9H5BrOS
